US05057614
1.4 ml of a 3M solution of methylmagnesium iodide in diethyl ether was added to a solution of 360 mg indole in 20 ml of benzene under nitrogen. After stirring at room temperature for 10 minutes 300 mg of 3-bromo-4-(4-nitrophenyl)-1H-pyrrole-2,5-dione were added and the resulting mixture was heated to reflux for 4 days. After cooling the solution was evaporated and the residue was partitioned between dichloromethane and 2M hydrochloric acid. The organic phase was washed with water, dried and evaporated. The residue was purified on silica gel with dichloromethane and 1% methanol in dichloromethane and then with 20% methanol/water on Hypersil to give 3 mg of 3-(3-indolyl)-4-(4-nitrophenyl)-1H-pyrrole-2,5-dione, m.p. 125° C. (decomposition).

reactant | methylmagnesium iodide | C[Mg]I
reactant | indole | 360 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 3-bromo-4-(4-nitrophenyl)-1H-pyrrole-2,5-dione | 300 mg | BrC=1C(NC(C1C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C10H5BrN2O4
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-(3-indolyl)-4-(4-nitrophenyl)-1H-pyrrole-2,5-dione | 3 mg | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C18H11N3O4
